US04000143
An aceticformic anhydride mixture is prepared by mixing acetic anhydride (140 ml.) and formic acid (70 ml.). To this mixture, 2-(o-aminophenethyl)pyridine (59 g., 0.3 mole) is added in one portion with vigorous stirring at 25° C. After 15 minutes the solution is diluted with 450 ml. of water and concentrated in vacuo. The resulting residue is taken up in 1 liter of water and made basic with 50% sodium hydroxide. The basified solution is extracted with chloroform, the chloroform extract washed with water, dried over magnesium sulfate and the chloroform solvent evaporated. Crystallization of the residue from isopropyl acetate provides 57 g. (83% yield) of 2-(o-formamidophenethyl)pyridine melting at 78°-81° C. (uncorrected). An analytical sample (from isopropyl acetate) has a melting point of 83°-83.5° C. (corr.).

reactant | acetic anhydride | 140 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(o-aminophenethyl)pyridine | 0.3 mole, 59 g | NC1=C(CCC2=NC=CC=C2)C=CC=C1 | C13H14N2
solvent | formic acid | 70 ml | C(=O)O | CH2O2
product | 2-(o-formamidophenethyl)pyridine | 83% yield | C(=O)NC1=C(CCC2=NC=CC=C2)C=CC=C1 | C14H14N2O
